US04122090
13. N-tert.-Butoxycarbonyl-L-proline-L-proline-L-phenylalanine-L-phenylalanine methyl ester
552 mg of triethylamine are added to a mixture of 965 mg of Pro-Phe-Phe-OMe.HCl D 12 and 1,044 mg of Boc-Pro≈SO2 in 20 ml of absolute tetrahydrofuran, whereupon the mixture develops a deep red coloration. It is stirred for 1.5 hours at 20° C. The pale yellow mixture is then worked up as described in Example D 1.

reactant | triethylamine | 552 mg | C(C)N(CC)CC | C6H15N
reactant | Pro-Phe-Phe-OMe.HCl | 965 mg | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC)CCC1.Cl
reactant | Boc-Pro | 1,044 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-tert.-Butoxycarbonyl-L-proline L-proline L-phenylalanine L-phenylalanine methyl ester | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1.N1[C@H](C(=O)O)CCC1.N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C10H17NO4.C10H13NO2.C9H11NO2.C5H9NO2/c1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13;1-13-10(12)9(11)7-8-5-3-2-4-6-8;10-8(9(11)12)6-7-4-2-1-3-5-7;7-5(8)4-2-1-3-6-4/h7H,4-6H2,1-3H3,(H,12,13);2-6,9H,7,11H2,1H3;1-5,8H,6,10H2,(H,11,12);4,6H,1-3H2,(H,7,8)/t7-;9-;8-;4-/m0000/s1
